US04847268
8-(4-chlorophenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride
1.65 g (55 mmol) of sodium hydride (80%) were added in portions to a stirred solution of 3.62 g (25 mmol) of 4-chloro-benzenethiol in 36 ml of dry dimethylformamide under nitrogen and cooled in ice. After evolution of hydrogen had ceased, 4.80 g (20 mmol) of 8-chloro-5,6,7,8-tetrahydroquinoline hydrochloride were added and the mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure in a stream of nitrogen below 50° C. and 4N aqueous sodium hydroxide was added. The mixture was extracted with ethyl acetate and the extracts were washed with ice-cold aqueous sodium hydroxide and then with aqueous saturated sodium chloride, dried over MgSO4 and evaporated to dryness under reduced pressure. A solution of the resulting oil in ether was treated with ethereal hydrogen chloride to precipitate 5.13 g (82%) of 8-(4-chlorophenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride as colorless crystals (from ethanol-ether).

reactant | sodium hydride | 55 mmol, 1.65 g | [H-].[Na+]
reactant | 4-chloro-benzenethiol | 25 mmol, 3.62 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | hydrogen | [H][H] | H2
reactant | 8-chloro-5,6,7,8-tetrahydroquinoline hydrochloride | 20 mmol, 4.80 g | Cl.ClC1CCCC=2C=CC=NC12
solvent | dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
product | 8-(4-chlorophenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | InChI=1S/C15H14ClNS.ClH/c16-12-6-8-13(9-7-12)18-14-5-1-3-11-4-2-10-17-15(11)14;/h2,4,6-10,14H,1,3,5H2;1H
